US06939870B2
3-(3-chloropropyl)-6,7-dimethoxy-4(3H)-quinazolinone was prepared starting from 6,7-dimethoxy-4-(3H) quinazolinone (1.61 g, 8 mmol). The quinazolinone was combined with 1-chloro-3-iodopropane (1.9 mL, 8 mmol), an excess of potassium carbonate (10 g) and stirred in 30 mL DMF overnight. The salts were filtered off and the reaction mixture dilluted with water. The solid that formed was collected via vacuum filtration, washed with water and dried, 0.70 g (31%); brown solid; m.p. 143° C., MS: 282.8 (M+H)+

reactant | 6,7-dimethoxy-4-(3H) quinazolinone | 8 mmol, 1.61 g | COC=1C=C2C(NC=NC2=CC1OC)=O | C10H10N2O3
reactant | quinazolinone | C=1C=CC2=C(C1)C(=O)NC=N2 | C8H6N2O
reactant | 1-chloro-3-iodopropane | 8 mmol, 1.9 mL | ClCCCI | C3H6ClI
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(3-chloropropyl)-6,7-dimethoxy-4(3H)-quinazolinone | ClCCCN1C=NC2=CC(=C(C=C2C1=O)OC)OC | C13H15ClN2O3
